US04042586
A mixture of 2-hydroxy-3-methyl-5-bromopyrazine and phosphorus oxybromide is heated at about 175° C. for several hours with constant stirring. After hydrolysis of the solution on ice the crude product is extracted with ether and distilled. The distillate is refluxed with phosphorus tribromide for several hours and, after cooling, the solution is hydrolyzed on ice and the product extracted with ether, the ether removed in vacuo to give 2,5-dibromo-3-methylpyrazine.

reactant | 2-hydroxy-3-methyl-5-bromopyrazine | OC1=NC=C(N=C1C)Br | C5H5BrN2O
reactant | phosphorus oxybromide | P(=O)(Br)(Br)Br | Br3OP
product | 2,5-dibromo-3-methylpyrazine | BrC1=NC=C(N=C1C)Br | C5H4Br2N2
